* nupa

* (compile (concat "../w32/src/ngspice " buffer-file-name) t)
* (compile "cd ../w32 && LC_ALL=C make -k")
*
* these lines don't get transformed in inpcom.c
*   a?b:c --> ternary_fcn(a,b,c)

i1001  1001 0 -1
r1001  1001 0  {1+2}

i1002  1002 0 -1
r1002  1002 0  {1 + 2 }

i1003  1003 0 -1
r1003  1003 0  {1+2*3}

i1004  1004 0 -1
r1004  1004 0  {(1?2:3)+100}

i1005  1005 0 -1
r1005  1005 0  {(1>2?2*4:1+2*3)+100}


.control

define mismatch(a,b,err) abs(a-b)>err

op

if mismatch(v(1001), 3, 1e-9)
  echo "ERROR, mismatch 1001"
end

if mismatch(v(1002), 3, 1e-9)
  echo "ERROR, mismatch 1002"
end

if mismatch(v(1003), 7, 1e-9)
  echo "ERROR, mismatch 1003"
end

if mismatch(v(1004), 102, 1e-9)
  echo "ERROR, mismatch 1004"
end

if mismatch(v(1005), 107, 1e-9)
  echo "ERROR, mismatch 1005"
end

quit 1

.endc
